US06140274
To a mixture of 0.39 g of 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde, 0.16 g of 1-propanethiol and 10 ml of chloroform was slowly added dropwise 0.16 g of trimethylsilyl chloride with stirring at room temperature. After stirring at room temperature for 3 hours, the reaction mixture was poured into 5% aqueous sodium carbonate solution and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over magnesium sulfate and then evaporated to give a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.20 g of 3,5-diethyl-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-di(propylthio)ethoxy)butyloxy)benzene (yield, 41%), nD26.4 1.5300.

reactant | 4-(2,6-diethyl-4-(3,3-dichloro-2-propenyloxy)phenoxy)butyloxyacetaldehyde | 0.39 g | C(C)C1=C(OCCCCOCC=O)C(=CC(=C1)OCC=C(Cl)Cl)CC | C19H26Cl2O4
reactant | 1-propanethiol | 0.16 g | C(CC)S | C3H8S
reactant | trimethylsilyl chloride | 0.16 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,5-diethyl-1-(3,3-dichloro-2-propenyloxy)-4-(4-(2,2-di(propylthio)ethoxy)butyloxy)benzene | 0.20 g, 41% | C(C)C=1C=C(C=C(C1OCCCCOCC(SCCC)SCCC)CC)OCC=C(Cl)Cl | C25H40Cl2O3S2
